US09062056B2
(R)-3-[2-Cyclopropyl-7-(1,4-dimethyl-1H-indol-3-ylmethyl)-8-oxo-7,8-dihydro-purin-9-yl]-3-phenyl-propionic acid ethyl ester
To a solution of (R)-3-(2-cyclopropyl-8-oxo-7,8-dihydro-purin-9-yl)-3-phenyl-propionic acid ethyl ester (313 mg, 0.89 mmol) in DMF (5 ml) were added K2CO3 (234 mg, 1.7 mmol) and (1,4-Dimethyl-1H-indol-3-ylmethyl)-trimethyl-ammonium iodide (275 mg, 1.27 mmol). The reaction mixture was heated to 100° C. for 4 hours. The reaction mixture was therefore diluted with ethyl acetate and washed with water (×4). The organic phase was dried over MgSO4 and concentrated. The resulting residue was purified by chromatography, eluded with 3% methanol to 10% in CH2Cl2 to afford the titled compound (231 mg, 50%). LCMS, M++1, m/z: 509.59.

reactant | (R)-3-(2-cyclopropyl-8-oxo-7,8-dihydro-purin-9-yl)-3-phenyl-propionic acid ethyl ester | 0.89 mmol, 313 mg | C(C)OC(C[C@H](C1=CC=CC=C1)N1C2=NC(=NC=C2NC1=O)C1CC1)=O | C19H20N4O3
reactant | K2CO3 | 1.7 mmol, 234 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (1,4-Dimethyl-1H-indol-3-ylmethyl)-trimethyl-ammonium iodide | 1.27 mmol, 275 mg | [I-].CN1C=C(C2=C(C=CC=C12)C)C[N+](C)(C)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-[2-Cyclopropyl-7-(1,4-dimethyl-1H-indol-3-ylmethyl)-8-oxo-7,8-dihydro-purin-9-yl]-3-phenyl-propionic acid ethyl ester | 231 mg, 50% | C(C)OC(C[C@H](C1=CC=CC=C1)N1C2=NC(=NC=C2N(C1=O)CC1=CN(C2=CC=CC(=C12)C)C)C1CC1)=O | C30H31N5O3
